US04795755
A solution of 4-(2-aminopyrid-6-ylthio)butyronitrile (36 g.) and 2,2,2-trifluoroethylisothiocyanate (22 ml.) in acetonitrile (100 ml.) was left at room temperature for 18 hours. The crystalline precipitate was collected and washed with cold EtOH to give 4-[2-(3-[2,2,2-trifluoroethyl]thioureidopyrid-6-ylthio]butyronitrile, m.p. 131°-133°.

reactant | 4-(2-aminopyrid-6-ylthio)butyronitrile | 36 g | NC1=NC(=CC=C1)SCCCC#N | C9H11N3S
reactant | 2,2,2-trifluoroethylisothiocyanate | 22 ml | FC(CN=C=S)(F)F | C3H2F3NS
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-(3-[2,2,2-trifluoroethyl]thioureidopyrid-6-ylthio]butyronitrile | FC(CNC(NC1=NC(=CC=C1)SC(C#N)CC)=S)(F)F | C12H13F3N4S2
